US07371748B2
N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-2-methoxy-isonicotinamide
Using 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine and 2-methoxy-isonicotinic acid, the title compound was prepared. MS: m/e=416(M+H+). Following the general method of example 1 the compounds of examples 17 to 34 were prepared.

reactant | 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)N)OC | C13H16N2O3S
reactant | 2-methoxy-isonicotinic acid | COC=1C=C(C(=O)O)C=CN1 | C7H7NO3
product | N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-2-methoxy-isonicotinamide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)OC)=O)OC | C20H21N3O5S
